* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:19

.SUBCKT sg13g2_hv_buf_2 A VDD VSS X
M$1 VSS \$4 X VSS sg13_hv_nmos L=0.45u W=1.48u AS=0.3922p AD=0.2777p PS=3.28u
+ PD=2.24u rfmode=0
M$3 VSS A \$4 VSS sg13_hv_nmos L=0.45u W=0.64u AS=0.1371p AD=0.2176p PS=1.12u
+ PD=1.96u rfmode=0
M$4 VDD A \$4 VDD sg13_hv_pmos L=0.45u W=2.4u AS=0.50095p AD=0.816p PS=3.07u
+ PD=5.48u rfmode=0
M$5 VDD \$4 X VDD sg13_hv_pmos L=0.45u W=5.38u AS=2.27305p AD=1.01205p PS=9.76u
+ PD=6.14u rfmode=0
.ENDS sg13g2_hv_buf_2
