* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:20

.SUBCKT sg13g2_hv_decap_4 VDD VSS
M$1 VSS VDD VSS VSS sg13_hv_nmos L=1u W=0.42u AS=0.1428p AD=0.1428p PS=1.52u
+ PD=1.52u rfmode=0
M$2 VDD VSS VDD VDD sg13_hv_pmos L=1u W=2.4u AS=0.816p AD=0.816p PS=5.48u
+ PD=5.48u rfmode=0
.ENDS sg13g2_hv_decap_4
