* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:20

.SUBCKT sg13g2_hv_dlygate4sd1_1 A VDD VSS X
M$1 \$6 A VSS VSS sg13_hv_nmos L=0.45u W=0.42u AS=0.1428p AD=0.15855p PS=1.52u
+ PD=1.175u rfmode=0
M$2 VSS \$6 \$3 VSS sg13_hv_nmos L=0.45u W=0.42u AS=0.15855p AD=0.1428p
+ PS=1.175u PD=1.52u rfmode=0
M$3 VSS \$3 \$5 VSS sg13_hv_nmos L=0.45u W=0.42u AS=0.1405p AD=0.2373p PS=1.15u
+ PD=1.97u rfmode=0
M$4 VSS \$5 X VSS sg13_hv_nmos L=0.45u W=0.74u AS=0.1405p AD=0.2516p PS=1.15u
+ PD=2.16u rfmode=0
M$5 VDD A \$6 VDD sg13_hv_pmos L=0.45u W=1.01u AS=0.70355p AD=0.41915p PS=3.05u
+ PD=2.85u rfmode=0
M$6 VDD \$6 \$3 VDD sg13_hv_pmos L=0.45u W=2.4u AS=0.70355p AD=0.888p PS=3.05u
+ PD=5.54u rfmode=0
M$7 VDD \$3 \$5 VDD sg13_hv_pmos L=0.45u W=2.4u AS=0.539125p AD=1.356p PS=3.1u
+ PD=5.93u rfmode=0
M$8 VDD \$5 X VDD sg13_hv_pmos L=0.45u W=2.69u AS=0.539125p AD=0.9146p PS=3.1u
+ PD=6.06u rfmode=0
.ENDS sg13g2_hv_dlygate4sd1_1
