* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:20

.SUBCKT sg13g2_hv_dlygate4sd3_1 A VDD VSS X
M$1 \$6 A VSS VSS sg13_hv_nmos L=0.45u W=0.42u AS=0.1428p AD=0.0798p PS=1.52u
+ PD=0.8u rfmode=0
M$2 VSS \$6 \$4 VSS sg13_hv_nmos L=0.5u W=0.42u AS=0.0798p AD=0.1428p PS=0.8u
+ PD=1.52u rfmode=0
M$3 VSS \$4 \$5 VSS sg13_hv_nmos L=0.5u W=0.42u AS=0.15185p AD=0.1428p
+ PS=1.185u PD=1.52u rfmode=0
M$4 VSS \$5 X VSS sg13_hv_nmos L=0.45u W=0.74u AS=0.15185p AD=0.2516p PS=1.185u
+ PD=2.16u rfmode=0
M$5 VDD A \$6 VDD sg13_hv_pmos L=0.45u W=1.01u AS=0.36565p AD=0.3434p PS=2.78u
+ PD=2.7u rfmode=0
M$6 VDD \$6 \$4 VDD sg13_hv_pmos L=0.5u W=2.4u AS=0.36565p AD=0.816p PS=2.78u
+ PD=5.48u rfmode=0
M$7 VDD \$4 \$5 VDD sg13_hv_pmos L=0.5u W=2.4u AS=0.5413p AD=0.816p PS=3.1u
+ PD=5.48u rfmode=0
M$8 VDD \$5 X VDD sg13_hv_pmos L=0.45u W=2.69u AS=0.5413p AD=1.08945p PS=3.1u
+ PD=6.19u rfmode=0
.ENDS sg13g2_hv_dlygate4sd3_1
