* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:21

.SUBCKT sg13g2_hv_inv_2 A VDD VSS Y
M$1 VSS A Y VSS sg13_hv_nmos L=0.45u W=1.48u AS=0.3922p AD=0.3922p PS=3.28u
+ PD=3.28u rfmode=0
M$3 VDD A Y VDD sg13_hv_pmos L=0.45u W=5.38u AS=1.4257p AD=1.43915p PS=9.13u
+ PD=9.14u rfmode=0
.ENDS sg13g2_hv_inv_2
