* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:21

.SUBCKT sg13g2_hv_inv_4 A VDD VSS Y
M$1 VSS A Y VSS sg13_hv_nmos L=0.45u W=2.96u AS=0.6734p AD=0.6734p PS=5.52u
+ PD=5.52u rfmode=0
M$5 VDD A Y VDD sg13_hv_pmos L=0.45u W=10.76u AS=2.4479p AD=2.4479p PS=15.27u
+ PD=15.27u rfmode=0
.ENDS sg13g2_hv_inv_4
