* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:21

.SUBCKT sg13g2_hv_inv_8 A VDD VSS Y
M$1 VSS A Y VSS sg13_hv_nmos L=0.45u W=5.92u AS=1.2395p AD=1.2395p PS=10.01u
+ PD=10.01u rfmode=0
M$9 VDD A Y VDD sg13_hv_pmos L=0.45u W=21.52u AS=4.50575p AD=4.50575p PS=27.56u
+ PD=27.56u rfmode=0
.ENDS sg13g2_hv_inv_8
